US20010044514A1
3-ethyl-6-methyl-2,5-dioxane-1,4-dione was synthesized from 2-hydroxybutyric acid and 2-bromopropionyl bromide. It was purified by distillation (45° C./50 mtorr) to give a colorless oil. Yield: 53% 1H NMR (CDCl3) δ5.03 (q), 4.99 (q, 1H for signal at 5.03 and 4.99 ppm), 4.86 (dd), 4.83 (dd, 1H for signal at 4.86 and 4.83), 1.90-2.20 (m, 2H), 1.69 (d), 1.66 (d, 3H for signals at 1.69 and 1.66 ppm). 1.15 (t). 1.14 (t, 3H for signals at 1.15 and 1.14 ppm). 13C NMR (CDCl3) δ167.6, 166.8, 166.3, 165.6, 77.7, 76.6, 72.5, 72.2, 25.3, 23.3, 17.5, 15.7, 9.1, 8.7, MS (m/q) 159.4 (M+1). The product is approximately a 3:1 mixture of the R,R/S,S and R,S diastereomers.

reactant | 2-hydroxybutyric acid | OC(C(=O)O)CC | C4H8O3
reactant | 2-bromopropionyl bromide | BrC(C(=O)Br)C | C3H4Br2O
product | 3-ethyl-6-methyl-2,5-dioxane-1,4-dione | Yield: 53% | C(C)C1OC(C(OC1=O)C)=O | C7H10O4
